US04243666
Methyl 2-(pyrid-4-yl)acetate (10 g.), n-propylamine (30 ml.) and 3 A molecular sieves (10 g.) were heated together at 100° for 148 hours in a stainless steel bomb. Excess amine and molecular sieves were removed and the crude product in glacial acetic acid (100 ml.) was hydrogenated over platinum oxide catalyst at 30°/50 p.s.i. until uptake of hydrogen ceased. The catalyst was removed by filtration, the excess acetic acid distilled off in vacuo, and the residue basified with aqueous sodium bicarbonate and extracted with ethyl acetate (100 ml.). The organic layer was dried (MgSO4) and evaporated in vacuo to give crude N-n-propyl-2-(piperid-4-yl) acetamide as an oil. This was utilized without further purification.

reactant | Methyl 2-(pyrid-4-yl)acetate | 10 g | N1=CC=C(C=C1)CC(=O)OC | C8H9NO2
solvent | n-propylamine | 30 ml | C(CC)N | C3H9N
product | N-n-propyl-2-(piperid-4-yl) acetamide | C(CC)NC(CC1CCNCC1)=O | C10H20N2O
